US07642264B2
3-{5-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (0.16 g, 0.75 mmol) and 6-difluoromethyl-4-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid (example D.3) (0.16 g, 0.5 mmol) according to the general procedure V. Obtained as a white solid (0.12 g, 49%). MS (ISP) 498.3 [(M+H)+]; mp 217.5° C.

reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 0.16 g | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
reactant | 6-difluoromethyl-4-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.16 g | FC(C1=CC(=NC(=N1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F)F | C13H7F5N2O2
product | 3-{5-[4-Difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NC(=NO1)C=1C=C(C=CC1)S(=O)(=O)N)F | C20H12F5N5O3S
